US09340547B2
c) tert-Butyl (S)-1-oxo-1-(2-((S)-1-phenylethylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate
The title compound was prepared from (S)-1-amino-N-(1-phenylethyl)-1H-pyrrole-2-carboxamide (3.50 g, 15.3 mmol) and (S)-2-(tert-butoxycarbonylamino)propanoic acid (2.89 g, 15.3 mmol) following the experimental procedure described in Preparation 73a. 5.78 g (92% yield) of the desired compound were obtained.

reactant | (S)-1-amino-N-(1-phenylethyl)-1H-pyrrole-2-carboxamide | 15.3 mmol, 3.50 g | NN1C(=CC=C1)C(=O)N[C@@H](C)C1=CC=CC=C1 | C13H15N3O
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 15.3 mmol, 2.89 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
product | tert-Butyl (S)-1-oxo-1-(2-((S)-1-phenylethylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate | 5.78 g, 92% yield | O=C([C@H](C)NC(OC(C)(C)C)=O)NN1C(=CC=C1)C(N[C@@H](C)C1=CC=CC=C1)=O | C21H28N4O4
